US04900751
(a) 2-(2Bromophenyl)imidazo[1,2-a]pyridine
A solution of 2-aminopyridine (1.63 g) and 2-bromo-1-(2-bromophenyl)-ethanone (4.8 g) in dry ethanol (40 mls) was heated under reflux for 1 hour. The mixture was concentrated in vacuo. The residue was treated with dilute sodium bicarbonate solution and extracted with ethyl acetate. The ethyl acetate was washed with water and brine then dried and evaporated. Flash chromatography produced the sub-title compound as a light grey oil. MS MW 272/274 bp 272.

reactant | 2-aminopyridine | 1.63 g | NC1=NC=CC=C1 | C5H6N2
reactant | 2-bromo-1-(2-bromophenyl)-ethanone | 4.8 g | BrCC(=O)C1=C(C=CC=C1)Br | C8H6Br2O
solvent | ethanol | 40 mls | C(C)O | C2H6O
product | 2-(2Bromophenyl)imidazo[1,2-a]pyridine | BrC1=C(C=CC=C1)C=1N=C2N(C=CC=C2)C1 | C13H9BrN2
